### PR TITLE
[Merged by Bors] - chore: replace open scoped Classical with open scoped Classical in or classical

### PR DESCRIPTION
**Pull request by kvanvels**
reduces some technical debt by replacing "open scoped classical" with (open scoped classical in) for theorem declarations and/or adding a "classical' tactic to a tactic proof. I followed the example in PR https://github.com/leanprover-community/mathlib4/pull/20325.  I made the PR smaller than before and concentrated on FieldTheory and GroupTheory files.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Coxeter/Length.lean [hunk 1]
```diff
@@ -65,16 +65,19 @@ private theorem exists_word_with_prod (w : W) : ∃ n ω, ω.length = n ∧ π 
...
   use ω.length, ω
 
+open scoped Classical in
 /-- The length of `w`; i.e., the minimum number of simple reflections that
 must be multiplied to form `w`. -/
 noncomputable def length (w : W) : ℕ := Nat.find (cs.exists_word_with_prod w)
 
 local prefix:100 "ℓ" => cs.length
 
+open scoped Classical in
```
Comment (kim-em) [inline Mathlib/GroupTheory/Coxeter/Length.lean:75]: This could be a `classical` at the start of the proof. Would you mind reviewing these again?

Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: I can do the following:

noncomputable def length (w : W) : ℕ := by
classical
exact Nat.find (cs.exists_word_with_prod w)

But I was told in a previous PR (I can try to find the comment) that it is better to just "open classical in" before the proof/function signature.  I originally did it this way (changing it to a tactic proof), I can do it either way.

Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: Here is a link to the previous comment https://github.com/leanprover-community/mathlib4/pull/20501#discussion_r1915662169

Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: @kim-em, I never know how I come across on message boards.  And it always bothers me.  I didn't mean to be dismissive.  I am just looking for guidance.  Thanks for the review.

Comment (kim-em) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: Thanks Mauricio, that's what I had in mind. For a tactic proof we can/should just use `classical` inside the by block.

@kvanvels, no problem, your intent was understood! :-)

Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: @kim-em, @collares. @j-loreaux, @jcommelin.  Ok, I am writing this just so I can communicate my understanding.

In DEFINITIONS that require classical, I should write a "term-based" definition (meaning no tactics if the original definition was term-based, so use the "open scoped Classical in" line).

In THEOREMS that are currently written as tactic proof,I should just write add a "by classical line", (as the first line).

In theorems/proofs that are term-based I should change it to a tactic based proof by writing a "classical" tactic and an "exact" line. For example, if the original theorem was

open scoped Classical

theorem length_wordProd_le (ω : List B) : ℓ (π ω) ≤ ω.length :=
  Nat.find_min' (cs.exists_word_with_prod (π ω)) ⟨ω, by tauto⟩

this should be changed to 

theorem length_wordProd_le (ω : List B) : ℓ (π ω) ≤ ω.length := by
  classical
  exact Nat.find_min' (cs.exists_word_with_prod (π ω)) ⟨ω, by tauto⟩

instead of 

open scoped Classical in
theorem length_wordProd_le (ω : List B) : ℓ (π ω) ≤ ω.length :=
  Nat.find_min' (cs.exists_word_with_prod (π ω)) ⟨ω, by tauto⟩

So this means that all theorems/proofs that require classical will be a tactical proof.  

Does everyone agree with this?

Thanks!

Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: I think I finally figured out why I was confused.  I was thinking @kim-em's comment was directed at the `length_wordProd_le` while it actually was directed at `theorem exists_reduced_word`.  I jumped to a hasty conclusion.  I think I am on the same page now.  Thanks.

**Review by kvanvels — COMMENTED** [review]
Tactic proof.

File: Mathlib/GroupTheory/Exponent.lean [hunk 2]
```diff
@@ -467,6 +468,7 @@ theorem exponent_eq_iSup_orderOf (h : ∀ g : G, 0 < orderOf g) :
     simp_rw [Set.mem_range, exists_exists_eq_and]
     exact ⟨g, hx⟩
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/GroupTheory/Exponent.lean:471]: Fix this

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean [hunk 3]
```diff
@@ -161,8 +161,7 @@ theorem support_nsmul (k : ℕ) (h : k ≠ 0) (a : FreeAbelianGroup X) :
   apply support_zsmul k _ a
   exact mod_cast h
 
-open scoped Classical
-
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:164]: Fix this.

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 4]
```diff
@@ -355,30 +355,32 @@ theorem nilpotent_iff_lowerCentralSeries : IsNilpotent G ↔ ∃ n, lowerCentral
...
     upperCentralSeries G n = ⊤ ↔ Group.nilpotencyClass G ≤ n := by
+  classical
   constructor
   · intro h
     exact Nat.find_le h
   · intro h
     rw [eq_top_iff, ← upperCentralSeries_nilpotencyClass]
     exact upperCentralSeries_mono _ h
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/GroupTheory/Nilpotent.lean:383]: Fix this.

File: Mathlib/GroupTheory/Nilpotent.lean [hunk 5]
```diff
@@ -409,6 +412,7 @@ theorem least_descending_central_series_length_eq_nilpotencyClass :
     rw [tsub_self]
     exact hH.1
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/GroupTheory/Nilpotent.lean:415]: Fix this.

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 6]
```diff
@@ -775,6 +776,7 @@ def numDenom (x : RatFunc K) : K[X] × K[X] :=
         rw [inv_div, mul_comm, mul_div_assoc, ← mul_assoc, inv_inv, mul_inv_cancel₀ ha',
           one_mul, inv_div])
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/FieldTheory/RatFunc/Basic.lean:779]: Fix this.

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 7]
```diff
@@ -790,6 +792,7 @@ normalized such that the denominator is monic. -/
 def num (x : RatFunc K) : K[X] :=
   x.numDenom.1
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/FieldTheory/RatFunc/Basic.lean:795]: Fix this.

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 8]
```diff
@@ -798,6 +801,7 @@ private theorem num_div' (p : K[X]) {q : K[X]} (hq : q ≠ 0) :
 @[simp]
 theorem num_zero : num (0 : RatFunc K) = 0 := by convert num_div' (0 : K[X]) one_ne_zero <;> simp
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/FieldTheory/RatFunc/Basic.lean:804]: Fix this

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 9]
```diff
@@ -828,13 +834,15 @@ normalized such that it is monic. -/
 def denom (x : RatFunc K) : K[X] :=
   x.numDenom.2
 
+open scoped Classical in
```
Comment (kvanvels) [inline Mathlib/FieldTheory/RatFunc/Basic.lean:837]: Fix this.

**Review by kvanvels — COMMENTED** [review]
Change the open scoped classicals to tactic mode classicals.

File: Mathlib/GroupTheory/Exponent.lean (hunk 2 above)
Comment (kvanvels) [reply Mathlib/GroupTheory/Exponent.lean:471]: This needs to be where it is.  The function signature needs to be "classicaled" too.

File: Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean (hunk 3 above)
Comment (kvanvels) [reply Mathlib/GroupTheory/FreeAbelianGroupFinsupp.lean:164]: This needs to stay this way.  Function signature needs classicals, too.

File: Mathlib/GroupTheory/Nilpotent.lean (hunk 4 above)
Comment (kvanvels) [reply Mathlib/GroupTheory/Nilpotent.lean:383]: This is actually correct.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 6 above)
Comment (kvanvels) [reply Mathlib/FieldTheory/RatFunc/Basic.lean:779]: This is correct.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 8 above)
Comment (kvanvels) [reply Mathlib/FieldTheory/RatFunc/Basic.lean:804]: THis is is correct.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 9 above)
Comment (kvanvels) [reply Mathlib/FieldTheory/RatFunc/Basic.lean:837]: correct as is.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 7 above)
Comment (kvanvels) [reply Mathlib/FieldTheory/RatFunc/Basic.lean:795]: correct as is.

File: Mathlib/GroupTheory/Nilpotent.lean (hunk 5 above)
Comment (kvanvels) [reply Mathlib/GroupTheory/Nilpotent.lean:415]: correct as is.

File: Mathlib/GroupTheory/Coxeter/Length.lean (hunk 1 above)
Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean:75]: Fixed.

Comment (kvanvels) [reply Mathlib/GroupTheory/Coxeter/Length.lean]: This was the only one I needed to fix (believe it or not :+1:) The other ones needed to remain because their "function signatures required them.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
